US07446118B2
To a solution of 3-(1H-indol-5-yl)-3-phenyl-propionic acid CCLXXIV (0.43 g, 1.6 mmol) in tert-butanol (10 mL) was added, under nitrogen atmosphere, triethylamine (0.18 g, 1.8 mmol), followed by diphenylphosphoryl azide (0.49 g, 1.8 mmol) and the resulting mixture was heated at reflux for 3 hours. The reaction mixture was cooled to room temperature and evaporated under reduced pressure to a syrup. This residue was diluted with ethyl acetate (50 mL) and washed with an aqueous solution of citric acid (5%), water, a saturated aqueous solution of sodium bicarbonate and brine (ca. 10-20 mL of each solution). The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to a light brown film. This crude residue was purified by flash chromatography (hexane/EtOAc, 100/0 to 75/25) to give 0.10 g (19% yield) of [2-(1H-indol-5-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester CCLXXV as a colorless film.

reactant | 3-(1H-indol-5-yl)-3-phenyl-propionic acid | N1C=CC2=CC(=CC=C12)C(CC(=O)O)C1=CC=CC=C1 | C17H15NO2
reactant | triethylamine | 1.8 mmol, 0.18 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.8 mmol, 0.49 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | [2-(1H-indol-5-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | 0.10 g, 19% yield | C(C)(C)(C)OC(NCC(C1=CC=CC=C1)C=1C=C2C=CNC2=CC1)=O | C21H24N2O2
